US05811439
The same procedures used in Example 11 were repeated except for using 725 mg of indole-4-carbaldehyde and 773 mg of benzoyl chloride instead of phenylacetyl chloride to give 260 mg of 1-benzoylindole-4-carbaldehyde as colorless crystals. The yield thereof was found to be 21%.

reactant | indole-4-carbaldehyde | 725 mg | N1C=CC=2C(=CC=CC12)C=O | C9H7NO
reactant | benzoyl chloride | 773 mg | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
product | 1-benzoylindole-4-carbaldehyde | 260 mg | C(C1=CC=CC=C1)(=O)N1C=CC=2C(=CC=CC12)C=O | C16H11NO2
